US06951879B2
According to the method in example 31, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene and piperidine were converted to yield 1-{4-[3-(4-Bromo-phenyl)-2-methyl-benzo[b]thiophen-6-yloxy]-butyl}-piperidine, MS: 458 (MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)Br)C)C1 | C19H18Br2OS
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-{4-[3-(4-Bromo-phenyl)-2-methyl-benzo[b]thiophen-6-yloxy]-butyl}-piperidine | BrC1=CC=C(C=C1)C=1C2=C(SC1C)C=C(C=C2)OCCCCN2CCCCC2 | C24H28BrNOS
